US05128485
Preparation of 1-Methyl-2-(2-naphthyl)-5-(trifluoromethyl)pyrrole-3-carbonitrile
A solution of β-(methylamino)-2-naphthaleneacrylonitrile (2.5 g, 0.012 mol) in toluene and acetic acid is treated dropwise with 3-bromo-1,1,1-trifluoro-2-propanone (2.3 g, 0.012 mol) at room temperature, heated at reflux temperature for 6 hours, cooled and diluted with ethyl acetate. The organic phase is washed sequentially with water and 5N NaOH, dried (Na2SO4) and concentrated in vacuo to give a brown oil residue. The residue is flash chromatographed (silica gel, hexanes/ethyl acetate, 80/20) to give the title compound as a yellow solid, mp 134° C., identified by mass spectral, IR and NMR analyses.

reactant | β-(methylamino)-2-naphthaleneacrylonitrile | 0.012 mol, 2.5 g | CNC(=CC#N)C1=CC2=CC=CC=C2C=C1 | C14H12N2
reactant | 3-bromo-1,1,1-trifluoro-2-propanone | 0.012 mol, 2.3 g | BrCC(C(F)(F)F)=O | C3H2BrF3O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-Methyl-2-(2-naphthyl)-5-(trifluoromethyl)pyrrole-3-carbonitrile | CN1C(=C(C=C1C(F)(F)F)C#N)C1=CC2=CC=CC=C2C=C1 | C17H11F3N2
